US07482354B2
Ethyl 8-{[3-chloro-4-(4-methylpiperazin-1-yl)phenyl]amino}-1,5,5-trimethyl-4,5-dihydro-1H-pyrazolo[4,3-h]quinazoline-3-carboxylate [B13-X00-M02(C01)-D01]
A solution of ethyl 6-(hydroxymethylene)-1,5,5-trimethyl-7-oxo-4,5,6,7-tetrahydro-1H-indazole-3-carboxylate (400 mg, 1.44 mmol) and N-[3-chloro-4-(4-methyl-piperazin-1-yl)-phenyl]-guanidine (424 mg, 1.58 mmol) in anhydrous dimethylformamide (5 mL) was heated at 100° C. for 3 hours. After cooling, the reaction mixture was poured into brine (50 mL) and extracted with ethyl acetate (50 mL×2). The extracts were collected, dried on Na2SO4 and evaporated to dryness. The crude material was purified by flash chromatography on silica gel eluted with dichloromethane/methanol 9:1 to give the pure title compound (240 mg, 33% yield).

reactant | ethyl 6-(hydroxymethylene)-1,5,5-trimethyl-7-oxo-4,5,6,7-tetrahydro-1H-indazole-3-carboxylate | 1.44 mmol, 400 mg | OC=C1C(CC=2C(=NN(C2C1=O)C)C(=O)OCC)(C)C | C14H18N2O4
reactant | N-[3-chloro-4-(4-methyl-piperazin-1-yl)-phenyl]-guanidine | 1.58 mmol, 424 mg | ClC=1C=C(C=CC1N1CCN(CC1)C)NC(=N)N | C12H18ClN5
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | brine | 50 mL | [Cl-].[Na+].O
product | Ethyl 8-{[3-chloro-4-(4-methylpiperazin-1-yl)phenyl]amino}-1,5,5-trimethyl-4,5-dihydro-1H-pyrazolo[4,3-h]quinazoline-3-carboxylate | 240 mg, 33% yield | ClC=1C=C(C=CC1N1CCN(CC1)C)NC1=NC=2C3=C(CC(C2C=N1)(C)C)C(=NN3C)C(=O)OCC | C26H32ClN7O2
